US06936608B2
7-[4-Fluoro-3-(pyrazol-1-yl)phenyl]-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine
7-Bromo-3-trifluoromethylimidazo[1,2-b)(1,2,4]triazine was coupled with 1-[5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluorophenyl]-1H-pyrazole as described in Example 3, step f, final paragraph, to give 41 mg (39%) of the title compound: 1H NMR (360 MHz, DMSO-d6) δ 6.63 (1H, t, J 2.1 Hz), 7.74 (1H, dd, J 8.7, 11.2 Hz), 8.23 (1H, ddd, J 2.1, 4.2, 8.7 Hz), 8.31 (1H, t, J 2.8 Hz), 8.71 (1H, dd, J 2.5, 7.7 Hz), 9.00 (1H, s), 9.41 (1H, s); MS (ES+) m/z 349 [M+H]+.

reactant | 7-Bromo-3-trifluoromethylimidazo[1,2-b)(1,2,4]triazine | BrC1=CN=C2N1N=CC(=N2)C(F)(F)F | C6H2BrF3N4
reactant | 1-[5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluorophenyl]-1H-pyrazole | CC1(COB(OC1)C=1C=CC(=C(C1)N1N=CC=C1)F)C | C14H16BFN2O2
product | 7-[4-Fluoro-3-(pyrazol-1-yl)phenyl]-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 41 mg, 39% | FC1=C(C=C(C=C1)C1=CN=C2N1N=CC(=N2)C(F)(F)F)N2N=CC=C2 | C15H8F4N6
